US08461083B2
Preparation of N-(5-fluoro-pyridin-2-yl)-2,2-dimethylpropionamide
To a stirred solution of 2-amino-5-fluoropyridine (50.0 g, commercially available) and triethylamine (93 ml) in dichloromethane (600 ml) was added pivaloyl chloride (56 ml) at ambient temperature. The slurry that formed was stirred for 3 hours, stored for 18 hours then washed with water (200 ml), brine (100 ml) then dried over magnesium sulfate, filtered and evaporated under reduced pressure to give the required product as a brown oil, 86 g. 1H NMR (CDCl3) δ: 8.30 (1H, dd), 8.10 (1H, d), 8.00 (1H, bs), 7.42 (1H, m), 1.30 (9H, s).

reactant | 2-amino-5-fluoropyridine | NC1=NC=C(C=C1)F | C5H5FN2
reactant | triethylamine | 93 ml | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 56 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
product | N-(5-fluoro-pyridin-2-yl)-2,2-dimethylpropionamide | FC=1C=CC(=NC1)NC(C(C)(C)C)=O | C10H13FN2O
